US06201156B1
A total of 13 mmol of nitrogen monoxide was introduced into a mixture of 1 mmol of 1-hydroxyphthalan, 0.1 mmol of N-hydroxyphthalimide, and 5 ml of acetonitrile, and the resultant mixture was stirred at 60° C. for 2 hours. Isolation of products in the reaction mixture by column chromatography on a silica gel revealed that 1-hydroxyphthalane was converted, at a rate of 99%, into phthalaldehyde (yield: 95%).

reactant | nitrogen monoxide | 13 mmol | [N]=O | NO
reactant | N-hydroxyphthalimide | 0.1 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | phthalaldehyde | yield: 95% | C(C=1C(C=O)=CC=CC1)=O | C8H6O2
